US06613942B1
1,2-Dibromoethane (46 mL, 0.54 moles) was added to a mixture of 3-chloro-4-hydroxy-5-methoxybenzaldehyde (10 g, 54 mmoles) and potassium carbonate (37 g, 0.27 moles) in DMF (180 ml) and the resulting mixture was stirred vigorously at room temperature for 16 hours. The mixture was poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The combined organic phases were washed with saturated sodium chloride (150 mL), dried over MgSO4 and evaporated in vacuo to afford 9.33 g (59%) of 4-(2-bromoethoxy)-3-chloro-5-methoxybenzaldehyde. M.p. 52-54° C.

reactant | 1,2-Dibromoethane | 0.54 moles, 46 mL | BrCCBr | C2H4Br2
reactant | 3-chloro-4-hydroxy-5-methoxybenzaldehyde | 54 mmoles, 10 g | ClC=1C=C(C=O)C=C(C1O)OC | C8H7ClO3
reactant | potassium carbonate | 0.27 moles, 37 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-3-chloro-5-methoxybenzaldehyde | 9.33 g, 59% | BrCCOC1=C(C=C(C=O)C=C1OC)Cl | C10H10BrClO3
